US04406828
(2)(iii) 1,1-Dimethyl-tetralin-4-carboxylic acid ethyl ester
248 g of 1,1-dimethyl-tetralin-4-carboxylic acid in 1.740 liters of absolute alcohol are held at reflux temperature for 6 hours with 24.8 g of paratoluenesulphonic acid in a 3-liter flask provided with a thermometer, stirrer and reflux condenser. The excess alcohol is then distilled off under a slight vacuum and the residue is poured into ice/water. The mixture is extracted with ether, washed neutral, dried, filtered, evaporated and distilled, there being thus obtained 177 g of 1,1-dimethyl-tetralin-4-carboxylic acid ethyl ester of boiling point 74° C./0.03 mmHg; nD20 =1.5153; yield 63%. Odour: faint, jasmone-like.

reactant | 1,1-dimethyl-tetralin-4-carboxylic acid | 248 g | CC1(CCC(C2=CC=CC=C12)C(=O)O)C | C13H16O2
reactant | paratoluenesulphonic acid | 24.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1,1-Dimethyl-tetralin-4-carboxylic acid ethyl ester | yield 63% | C(C)OC(=O)C1CCC(C2=CC=CC=C12)(C)C | C15H20O2
